### PR TITLE
feat(NumberField/CMField): A totally complex abelian extension of ℚ is CM

### PR DESCRIPTION
**Pull request by xroblot**
---

- [x] depends on: #23858
- [ ] depends on: #25818

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean [hunk 1]
```diff
@@ -307,6 +303,19 @@ lemma finrank_eq_one_iff_eq_top {K : IntermediateField F E} :
   obtain ⟨x, rfl⟩ := @H x IntermediateField.mem_top
   exact x.2
 
+theorem bot_eq_top_iff_finrank_eq_one :
+    (⊥ :IntermediateField F E) = ⊤ ↔ Module.finrank F E = 1 := by
```
Comment (erdOne) [inline Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean]:
```suggestion
    (⊥ : IntermediateField F E) = ⊤ ↔ Module.finrank F E = 1 := by
```

File: Mathlib/FieldTheory/IntermediateField/Basic.lean [hunk 2]
```diff
@@ -289,6 +292,16 @@ def Subfield.toIntermediateField (S : Subfield L) (algebra_map_mem : ∀ x, alge
...
 
+@[simp]
+theorem Subfield.toIntermediateField_toSubfield (S : Subfield L)
+    (algebra_map_mem : ∀ (x : K), (algebraMap K L) x ∈ S) :
+    (S.toIntermediateField algebra_map_mem).toSubfield = S := rfl
+
+@[simp]
+theorem Subfield.coe_toIntermediateField (S : Subfield L)
+    (algebra_map_mem : ∀ (x : K), (algebraMap K L) x ∈ S) :
+    ((S.toIntermediateField algebra_map_mem) : Set L)= S := rfl
```
Comment (erdOne) [inline Mathlib/FieldTheory/IntermediateField/Basic.lean]:
```suggestion
    ((S.toIntermediateField algebra_map_mem) : Set L) = S := rfl
```

File: Mathlib/FieldTheory/IntermediateField/Basic.lean [hunk 3]
```diff
@@ -289,6 +292,16 @@ def Subfield.toIntermediateField (S : Subfield L) (algebra_map_mem : ∀ x, alge
...
     algebraMap_mem' := algebra_map_mem }
 
+@[simp]
+theorem Subfield.toIntermediateField_toSubfield (S : Subfield L)
+    (algebra_map_mem : ∀ (x : K), (algebraMap K L) x ∈ S) :
+    (S.toIntermediateField algebra_map_mem).toSubfield = S := rfl
+
+@[simp]
+theorem Subfield.coe_toIntermediateField (S : Subfield L)
+    (algebra_map_mem : ∀ (x : K), (algebraMap K L) x ∈ S) :
```
Comment (erdOne) [inline Mathlib/FieldTheory/IntermediateField/Basic.lean]:
```suggestion
    (algebra_map_mem : ∀ x, algebraMap K L x ∈ S) :
```

File: Mathlib/FieldTheory/IntermediateField/Basic.lean [hunk 4]
```diff
@@ -289,6 +292,16 @@ def Subfield.toIntermediateField (S : Subfield L) (algebra_map_mem : ∀ x, alge
   { S with
     algebraMap_mem' := algebra_map_mem }
 
+@[simp]
+theorem Subfield.toIntermediateField_toSubfield (S : Subfield L)
+    (algebra_map_mem : ∀ (x : K), (algebraMap K L) x ∈ S) :
```
Comment (erdOne) [inline Mathlib/FieldTheory/IntermediateField/Basic.lean]:
```suggestion
    (algebra_map_mem : ∀ x, algebraMap K L x ∈ S) :
```
You can keep the `(x : K)` part if you prefer (it is probably up to personal taste), but the parentheses around `algebraMap K L` is confusing IMO.

File: Mathlib/NumberTheory/NumberField/InfinitePlace/Embeddings.lean [hunk 5]
```diff
@@ -259,4 +259,13 @@ lemma isConj_apply_apply (hσ : IsConj φ σ) (x : K) :
     σ (σ x) = x := by
   simp [← φ.injective.eq_iff, hσ.eq]
 
+theorem IsConj.comp {ν : K ≃ₐ[k] K} (hσ : IsConj φ σ) :
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/InfinitePlace/Embeddings.lean]:
```suggestion
theorem IsConj.comp (hσ : IsConj φ σ) (ν : K ≃ₐ[k] K) :
```

File: Mathlib/NumberTheory/NumberField/CMField.lean [hunk 6]
```diff
@@ -140,7 +191,49 @@ class IsCMField (K : Type*) [Field K] [NumberField K] [IsTotallyComplex K] : Pro
...
+    let φ : K →+* ℂ := Classical.choice (inferInstance : Nonempty _)
+    have hσ' : σ ≠ 1 :=
+      (isConj_ne_one_iff (hσ φ)).mpr <| IsTotallyComplex.complexEmbedding_not_isReal φ
+    rw [finrank_fixedField_eq_card, Fintype.card_zpowers, orderOf_isConj_two_of_ne_one (hσ φ) hσ']⟩
+  exact of_CMExtension (fixedField (Subgroup.zpowers σ)) K
+
+/--
+A totally complex abelian extension of `ℚ` is CM.
+-/
+instance of_abelian [IsGalois ℚ K] [IsMulCommutative (K ≃ₐ[ℚ] K)] :
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/CMField.lean]: These three lemmas don't really adhere to the naming convention. If you have established locally that `CMExtension` is an abbrev of `[IsTotallyReal F] [IsTotallyComplex K] [IsQuadraticExtension F K]` then I guess the first one is fine. The second probably should be `of_forall_isConj` and the third should be `of_isMulCommutative` (or we add the class abbrev `IsAbelian` to mean `IsGalois + IsMulCommutative`)

**Review by erdOne — COMMENTED** [review]
some nitpicks:

**Comment by erdOne** [comment]
I just noticed that the prerequisite PR is not merged yet and the dependency was removed merely because of the migration to forks. Can you restore the prerequisite? Some of the reviews above should apply there as well.

**Comment by xroblot** [comment]
> I just noticed that the prerequisite PR is not merged yet and the dependency was removed merely because of the migration to forks. Can you restore the prerequisite? Some of the reviews above should apply there as well.

Right. Things are a bit messy at the moment. I added back the dependency. I might address some of your suggestions in the other PR as you remarked. Thanks for the review!

File: Mathlib/NumberTheory/NumberField/CMField.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CMField.lean]: I am not against adding the abbrev `IsAbelian` to mean `IsGalois` + `IsMulCommutative`. This is probably a discussion we should have on Zulip at some point.

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CMField.lean]: Or just PR it and see what happens ;)

**Comment by xroblot** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26073
